US06566362B2
A suspension of 2 g of ethyl 8,9-difluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate and 1.1 g of pyrrolidine in 40 cm3 of dimethylformamide was heated, with stirring, at a temperature of 70° C. for 8 hours. After cooling to 20° C., the mixture was poured into 150 cm3 of ice-cold water. The insoluble material was dewatered, washed 3 times with 30 cm3 of water, and dissolved in 300 cm3 of dichloromethane; the residual water was decanted off. The organic extracts were dried over sodium sulphate; after filtration and concentration under reduced pressure (5.2 kPa), the compound obtained was purified by chromatography on 180 g of silica gel (0.06-0.20 mm). Elution was carried out with 3.6 liters of a dichloromethane-ethanol mixture (97-3 by volume) and with 6 liters of a dichloromethane-ethanol mixture (94-6 by volume), 150 cm3 fractions were collected. The fractions obtained from the latter mixture were concentrated to dryness under reduced pressure. 0.85 g of ethyl 9-fluoro-4-methyl-1-oxo-8-pyrrolidinyl-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate was obtained in the form of a yellow compound, which melted at 270° C.

reactant | ethyl 8,9-difluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 2 g | FC1=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C=C1F | C16H12F2N2O3
reactant | pyrrolidine | 1.1 g | N1CCCC1 | C4H9N
solvent | dimethylformamide | 40 cm3 | CN(C=O)C | C3H7NO
product | ethyl 9-fluoro-4-methyl-1-oxo-8-pyrrolidinyl-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 0.85 g | FC=1C(=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C1)N1CCCC1 | C20H20FN3O3
